US04843166
Catalytic hydrogenolysis and hydrogenation of 4-benzyloxy-3-pyrrolin-2-on-1-yl acetamide 3.00 g of 4-benzyloxy-3-pyrrolin-2-on-1-yl acetamide was dissolved in 30 ml of concentrated acetic acid and mixed with 240 mg of palladium 5 percent on activated carbon and 24 mg of platinum oxide. Hydrogenolysis and hydrogenation at 15 bars of hydrogen pressure and room temperature were performed for 65 hours. Then filtering off from the catalyst and evaporation of the solvent were performed. The residue was picked up in H2O and allowed to run over 5.0 g of weakly basic ion exchanger. The water was distilled off and the residue mixed with 10 ml of acetone. 1.53 g of nearly white 4-hydroxypyrrolidin-2-on-1-yl acetamide with a melting point of 163.5° to 165.7° C. was obtained.

reactant | 4-benzyloxy-3-pyrrolin-2-on-1-yl acetamide | 3.00 g | C(C1=CC=CC=C1)OC1=CC(N(C1)CC(=O)N)=O | C13H14N2O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 240 mg | [Pd] | Pd
catalyst | platinum oxide | 24 mg | [Pt]=O
product | 4-hydroxypyrrolidin-2-on-1-yl acetamide | OC1CC(N(C1)CC(=O)N)=O | C6H10N2O3
